US08754229B2
Preparation of methyl 4-acetamido-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methoxypicolinate (Compound 3)
Methyl 4-acetamido-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-hydroxypicolinate (568 mg, 1.54 mmol), triphenylphosphine (404 mg, 1.54 mmol), diethyl azodicarboxylate (243 μL, 1.54 mmol), and CH3OH (94 μL, 2.31 mmol) were combined in THF and allowed to stir for 24 h. Flash chromatography (SiO2; 0-50% EtOAc/cyclohexane gradient) afforded the title compound as a yellow oil (255 mg, 43%): 1H NMR (400 MHz, CDCl3) δ 8.93 (d, J=1.6 Hz, 1H), 8.06 (s, 1H), 7.56 (dd, J=8.5, 7.7 Hz, 1H), 7.23 (dd, J=8.6, 1.7 Hz, 1H), 4.01 (s, 3H), 3.99 (d, J=1.0 Hz, 3H), 3.98 (s, 3H), 2.29 (s, 3H); ESIMS m/z 383 ([M+H]+).

reactant | Methyl 4-acetamido-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-hydroxypicolinate | 1.54 mmol, 568 mg | C(C)(=O)NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)O | C16H14ClFN2O5
reactant | triphenylphosphine | 1.54 mmol, 404 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.54 mmol, 243 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | CH3OH | 2.31 mmol, 94 μL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc cyclohexane | CCOC(=O)C.C1CCCCC1
product | methyl 4-acetamido-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methoxypicolinate | 255 mg, 43% | C(C)(=O)NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)OC | C17H16ClFN2O5
